US05191132
Preparation of (cyclopentadienyl)(fluorenyl)methane
The 9-(chloromethyl)-9-(trimethylsilyl) fluorene was dissolved in 200 ml tetrahydrofuran and added dropwise to a solution of cyclopentadienyl lithium (0.04 m) in 200 ml of tetrahydrofuran. The reaction mixture was stirred for another 2 hours. The yellow solution was washed with 50 ml of an aqueous NH4Cl solution, then washed with 50 ml of water, and then the organic phase was dried over Na2SO4. Then the solvent was removed in vacuo. The raw product was dissolved in pentane and was crystallized at -30° C. The recovered product is 1-fluorenyl-1-cyclopentadienyl methane.

reactant | 9-(chloromethyl)-9-(trimethylsilyl) fluorene | ClCC1(C2=CC=CC=C2C=2C=CC=CC12)[Si](C)(C)C | C17H19ClSi
reactant | cyclopentadienyl lithium | C1(C=CC=C1)[Li]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (cyclopentadienyl)(fluorenyl)methane | C1(C=CC=C1)CC1=CC=CC=2C3=CC=CC=C3CC12 | C19H16
